US07476677B2
6-[4-(3-iodophenyl)-1-methyl-1H-imidazol-5-yl]-4-(methylsulfonyl)thieno[2,3-d]pyrimidine
m-CPBA (70-75%, 399 mg) was added to a solution of 6-[4-(3-iodophenyl)-1-methyl-1H-imidazol-5-yl]-4-(methylthio)thieno[2,3-d]pyrimidine (300 mg) in DCM (20 mL) and stirred for 24 hours. Aqueous sodium metabisulfite was added and the mixture extracted with DCM. The organic phase was washed with saturated aqueous NaHCO3, dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a yellow solid (220 mg, 68%);

reactant | m-CPBA | 399 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 6-[4-(3-iodophenyl)-1-methyl-1H-imidazol-5-yl]-4-(methylthio)thieno[2,3-d]pyrimidine | 300 mg | IC=1C=C(C=CC1)C=1N=CN(C1C1=CC2=C(N=CN=C2SC)S1)C | C17H13IN4S2
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-(3-iodophenyl)-1-methyl-1H-imidazol-5-yl]-4-(methylsulfonyl)thieno[2,3-d]pyrimidine | 220 mg, 68% | IC=1C=C(C=CC1)C=1N=CN(C1C1=CC2=C(N=CN=C2S(=O)(=O)C)S1)C | C17H13IN4O2S2
